US05811389
A solution of 700 mg (1.31 mmol) of (6-tert.-butoxycarbonyl-aminomethyl-10-hexyl-3,7-dimethoxy-phenothiazin-4-yl)-acetic acid, 547 mg (1.44 mmol) of 1-benzotriazol-1-yl-N,N,N',N'-tetramethylnonium hexafluorophosphate (HBTU) and 488.1 mg (1.44 mmol) of Gly-Gly-Ala-Gly (SEQ ID NO:4) methyl ester hydrochloride in 5 ml of DMF was processed analogously to that described in Example 4.8.3., whereupon, after chromatography on silica gel with chloroform/methanol (9:1), 800 mg (77.6%) of (6-tert.-butoxycarbonyl-aminomethyl-10-hexyl-3,7-dimethoxy-phenothiazin-4-yl)-acetyl-glycyl-glycyl-L-alanyl-glycine methyl ester were obtained as an amorphous foam.

reactant | (6-tert.-butoxycarbonyl-aminomethyl-10-hexyl-3,7-dimethoxy-phenothiazin-4-yl)-acetic acid | 1.31 mmol, 700 mg | C(C)(C)(C)OC(=O)C1=C2SC=3C(=C(C=C(C3N(C2=CC=C1OC)CCCCCC)CN)OC)CC(=O)O | C28H38N2O6S
reactant | Gly-Gly-Ala-Gly | 1.44 mmol, 488.1 mg | NCC(=O)NCC(=O)N[C@@H](C)C(=O)NCC(=O)O | C9H16N4O5
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (6-tert.-butoxycarbonyl-aminomethyl-10-hexyl-3,7-dimethoxy-phenothiazin-4-yl)-acetyl-glycyl-glycyl-L-alanyl-glycine methyl ester | 800 mg, 77.6% | COC(CNC([C@@H](NC(CNC(CN(C(C)=O)C1=C(C=C(C=2N(C3=CC=C(C(=C3SC12)C(=O)OC(C)(C)C)OC)CCCCCC)CN)OC)=O)=O)C)=O)=O | C38H54N6O10S
